US07777047B2
N,N-dimethyl-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
A mixture of (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (70 mg), 1H-1,2,3-benzotriazol-1-ol (33 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (46 mg) and N,N-dimethylformamide (4 mL) was stirred at room temperature for 2 hr. 2M tetrahydrofuran solution (0.25 mL) of dimethylamine was added to this solution, and the mixture was stirred at room temperature for 15 hr. The reaction solution was diluted with ethyl acetate, washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate), and the obtained colorless crystals were washed with ethyl acetate-hexane to give the title compound (53 mg, yield: 30%) as colorless crystals. MS: 463 (MH+). melting point 153-154° C.

reactant | (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 70 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 33 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 46 mg | Cl.CN(CCCN=C=NCC)C
reactant | dimethylamine | CNC | C2H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2M, 0.25 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N,N-dimethyl-2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 53 mg, yield: 30% | CN(C(CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O)C | C20H22N4O3S3
